US06953805B2
Anhydrous HCl was bubbled through a suspension of (±)-5-hydroxypiperidine-3-carboxylic acid (5.6 g, 38.6 mmol) (according to the procedures as disclosed in J. Med. Chem., 25, 1157-1162, (1982)), cooled to 0° C. in EtOH (100 mL), until saturation was reached. The reaction mixture was warmed to room temperature, stirred overnight, then concentrated in vacuo. The crude salt was cooled to 0° C. in CHCl3 (80 mL), and anhydrous NH3 was bubbled through the solution. The resulting white precipitate was removed by vacuum filtration, and the filtrate was concentrated in vacuo to provide 6.6 g (99%) of (±) ethyl 5-hydroxypiperidine-3-carboxylate as a pale yellow oil.

reactant | HCl | Cl | ClH
reactant | (±)-5-hydroxypiperidine-3-carboxylic acid | 38.6 mmol, 5.6 g | OC1CC(CNC1)C(=O)O | C6H11NO3
reactant | EtOH | 100 mL | CCO | C2H6O
product | (±) ethyl 5-hydroxypiperidine-3-carboxylate | 6.6 g, 99% | OC1CC(CNC1)C(=O)OCC | C8H15NO3
